US06265422B1
7-[2-(1H-1-Imidazolyl)ethoxy]-4H-4-chromenone
Under N2, a solution of 0.75 g (4.6 mmol) of 7-hydroxy-4H-4-chromenone (J. Med. Chem., 1991;34:248) in 20 ml, of THF was treated with 1.21 g (4.6 mmol) of triphenylphosphine and 0.5 g (5.1 mmol) of 2-(1H-1-imidazolyl)-1-ethanol and the solution cooled in ice. This was then treated over 10 minutes with 0.72 mL (4.6 mmol) of diethyl azodicarboxylate, and the solution stirred at room temperature overnight. The solution was diluted with EtOAc, washed twice with H2O, twice with saturated NaHCO3, and then with saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure gave the crude product. Chromatography on silica gel, eluting with a gradient of CH2Cl2 to CH2Cl2/MeOH (96/4) gave 0.12 g (10% yield) of the product as a pink solid, mp 131-133° C. The structure was confirmed by NMR and mass spectroscopy. MS m/z 257 (M+H+).

reactant | 7-hydroxy-4H-4-chromenone | 4.6 mmol, 0.75 g | OC1=CC=C2C(C=COC2=C1)=O | C9H6O3
reactant | triphenylphosphine | 4.6 mmol, 1.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(1H-1-imidazolyl)-1-ethanol | 5.1 mmol, 0.5 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | diethyl azodicarboxylate | 4.6 mmol, 0.72 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 7-[2-(1H-1-Imidazolyl)ethoxy]-4H-4-chromenone | 0.12 g, 10% yield | N1(C=NC=C1)CCOC1=CC=C2C(C=COC2=C1)=O | C14H12N2O3
